US07741375B2
Synthesis of 1-phenyl-4-pentene-1-one
Ethyl benzoylacetate (38.4 g, 0.2 mole, Aldrich) was added to a mixture of sodium ethoxide (13.6 g, 0.2 moles) in 200 mL ethanol. The mixture was stirred magnetically and slowly brought to reflux. After 30 minutes, the reaction mixture was cooled and allyl bromide (26.6 g, 0.22 moles, Aldrich) was added via a syringe with care (10 minutes), and the mixture was refluxed for another 2 hours. After cooling to room temperature, the mixture was transferred to a separatory funnel and diluted with 300 mL saturated sodium bicarbonate and extracted with ether (200 mL×3). The combined ether layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed by rotary evaporation resulting in a brownish oil. Without further purification, the crude product was suspended in 250 mL 1 normal sodium hydroxide solution and brought to gentle reflux overnight. After cooling, the oil that floated on top was separated and was combine with the organic layer from the extractions that followed. The aqueous layer was acidified with 50% sulfuric acid to pH 1 and heated to reflux for 5 hours. The mixture was extracted with ethyl acetate (200 mL×3). The organic layer was dried over sodium sulfate and the solvent removed by rotary evaporation to yield a yellow oil. Yield: 19.7 g (61.5%) with boiling point 70-80° C. at 0.8 mmHg. 1H-NMR (CDCl3, δ): phenyl ring (7.97, d, 2H, 7.55, m, 1H, 7.4, m, 2H); vinyl group (5.8, m 2H, 5.1 q, 1H); 3.08 (t, 2H); 2.5 (m, 2H). See also, Vogel et al., Vogel's Textbook of Practical Organic Chemistry. Fifth Edition, revised by Furniss et al., 1989, Pearson Prentice Hall).

reactant | Ethyl benzoylacetate | 0.2 mole, 38.4 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | sodium ethoxide | 0.2 moles, 13.6 g | [O-]CC.[Na+]
reactant | allyl bromide | 0.22 moles, 26.6 g | C(C=C)Br | C3H5Br
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
product | 1-phenyl-4-pentene-1-one | C1(=CC=CC=C1)C(CCC=C)=O | C11H12O
